US05434288
Ethyl 2-(diethoxyphosphinyl)-3-[2-(1-tridecynyl)phenyl]-2-E-propenoate
Ethyl 3-(2-bromophenyl)-2-E-(diethoxyphosphinyl)propenoate (7.84 g, 20.0 mmol) prepared according to Example 4 was placed in a three neck round bottom flask equipped with a condenser, stir bar, internal thermometer, and argon inlet. 1-Tridecyne (6.30 g, 34.9 mmol) and triphenylphosphine (0.161 g, 0.614 mmol) were added along with triethylamine (110 ml) and the system was degassed by repeated vacuum-argon cycles. Under an argon atmosphere, palladium acetate (0.048, 0.214 mmol) was added, and heating in an oil bath (100°-105° C.) was started. The internal temperature stayed in the range of 89°-92° C. during the reaction. Within a few hours a light precipitate started forming. After about 42 hours, additional tridecyne (1.0 g, 5.5 mmol) was added. The reaction was stopped after 53 hours. After cooling the reaction mixture was filtered and the precipitate was washed with triethylamine. The filtrate was stripped down to a reddish oil. Multiple chromatographies on silica eluting with ethyl acetate in hexane (32% ethyl acetate was best) yielded a yellow liquid, 2.43 g, 5.08 mmol, 25.3% yield; 1H NMR (CDCl3) ∂ 0.88 (m, 3H), 1.17 (t, J=7.2 Hz, 3H), 1.21 to 1.48 (several m, 22H), 1.64 (quintet, J=7.5 Hz, 2H), 2.43 (t, J=7.2 Hz, 2H), 4.22 (m, 4H), 7.19 to 7.48 (several m, 4H), 8.06 (d, J=23.7 Hz, 1H); CI mass spectrum m/z 491 (M+H)+.

reactant | Ethyl 3-(2-bromophenyl)-2-E-(diethoxyphosphinyl)propenoate | 20.0 mmol, 7.84 g | BrC1=C(C=CC=C1)/C=C(\C(=O)OCC)/P(=O)(OCC)OCC | C15H20BrO5P
reactant | 1-Tridecyne | 34.9 mmol, 6.30 g | C#CCCCCCCCCCCC | C13H24
reactant | triphenylphosphine | 0.614 mmol, 0.161 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tridecyne | 5.5 mmol, 1.0 g | C#CCCCCCCCCCCC | C13H24
catalyst | palladium acetate | 0.214 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 110 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-(diethoxyphosphinyl)-3-[2-(1-tridecynyl)phenyl]-2-E-propenoate | 25.3% yield | C(C)OP(=O)(\C(\C(=O)OCC)=C\C1=C(C=CC=C1)C#CCCCCCCCCCCC)OCC | C28H43O5P
